US05821261
Step B: (4R)-1-(tert-Butyloxycarbonyl)-4-cyano-L-Proline Methyl Ester
A mixture of (4R)-1-(tert-butyloxycarbonyl)-4-(methane-sulfonyloxy)-L-proline methyl ester (2.31 g, 7.14 mmol) and sodium cyanide (3.5 g, 71.4 mmol) in dry dimethylsulfoxide (46 mL) was stirred for 24 hours at 55° C. under a nitrogen atmosphere. The cooled reaction mixture was diluted with ethyl acetate, washed with water (2×), saturated brine solution, dried (MgSO4), and evaporated. The crude product mixture was subjected to flash silica gel chromatography eluting with 15% acetone/hexane. Fractions containing the desired nitrile were combined and evaporated to afford a colorless oil; yield 205 mg (11%).

reactant | (4R)-1-(tert-butyloxycarbonyl)-4-(methane-sulfonyloxy)-L-proline methyl ester | 7.14 mmol, 2.31 g | COC([C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C)=O | C12H21NO7S
reactant | sodium cyanide | 71.4 mmol, 3.5 g | [C-]#N.[Na+]
solvent | dimethylsulfoxide | 46 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4R)-1-(tert-Butyloxycarbonyl)-4-cyano-L-Proline Methyl Ester | COC([C@H]1N(C[C@@H](C1)C#N)C(=O)OC(C)(C)C)=O | C12H18N2O4
